### PR TITLE
[Merged by Bors] - feat(Analysis): use new notation for Fourier transform on Schwartz functions and simplify presentation

### PR DESCRIPTION
**Pull request by mcdoll**
Use the new notation for the Fourier transform and its inverse to clean up `FourierSchwartz`.

- Use notation type class and `Prop`-type classes.
- State all lemmas for the Fourier transform on `SchwartzMap` and not on the coercion to functions.
- Add coercion lemmas.
- Move `FourierTransformCLE` up in the file and use `FourierEquiv` from the abstract notation file.
- Use the notation for the Fourier transform and the Schwartz functions in `PoissonSummation`.
- Add my name to the authors list for this PR and the PR for Plancherel's theorem.
- Some golfing

---

- [x] depends on: #31115

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/FourierSchwartz.lean [hunk 1]
```diff
@@ -77,99 +81,129 @@ noncomputable def fourierTransformCLM : 𝓢(V, E) →L[𝕜] 𝓢(V, E) := by
...
-    rw [← fourierIntegralInv_eq_fourierIntegral_neg, Continuous.fourier_inversion f.continuous
-      f.integrable (fourierTransformCLM 𝕜 f).integrable]
-  right_inv := by
-    intro f
-    ext x
-    change 𝓕 (fun (x : V) ↦ ((𝓕 (f : V → E)) (-x) : E)) x = f x
-    simp_rw [← fourierIntegralInv_eq_fourierIntegral_neg, Continuous.fourier_inversion_inv
-      f.continuous f.integrable (fourierTransformCLM 𝕜 f).integrable]
-  continuous_invFun := ContinuousLinearMap.continuous _
+theorem norm_fourier_toL2_eq (f : 𝓢(V, H)) :
```
Comment (ocfnash) [inline Mathlib/Analysis/Distribution/FourierSchwartz.lean]:
```suggestion
@[simp] theorem norm_fourier_toL2_eq (f : 𝓢(V, H)) :
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
